US05371096
To a solution of 0.48 g (0.00383 mole) of oxalyl chloride in 7 ml of methylene chloride is added dropwise a solution of 0.54 g (0.0067 mole) of dimethylsulfoxide in 4 ml of dichloromethane with stirring at -60° C. After stirring the mixture for another 10 min at -70° C., a solution of 0.95 g (0.00244 mole) of (2S,3S,4R)-4-(biphenyl)-4-ylmethoxy)-3-(3-hydroxyprop-1-yl)-2-(3-pyridyl)tetrahydrofuran in 8 ml of dichloromethane is added dropwise over a period of 10 min. The mixture is stirred at -70° C. for 1 h and 2.48 ml (0.014 mole) of diisopropylethyl amine are added at once. The mixture is allowed to warm up to room temperature, washed with water and brine, dried (MgSO4) and evaporated. The residue is purified by flash chromatography using methylene chloride-methanol-ammonium hydroxide (300:25:1) as eluent to give (2S,3S,4R)-3-[4-(biphenyl-4-ylmethoxy)-2-(3-pyridyl)tetrahydrofuran-3-yl]propanal as oil.

reactant | oxalyl chloride | 0.00383 mole, 0.48 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 0.0067 mole, 0.54 g | CS(=O)C | C2H6OS
reactant | 3-(3-hydroxyprop-1-yl)-2-(3-pyridyl)tetrahydrofuran | OCCCC1C(OCC1)C=1C=NC=CC1 | C12H17NO2
reactant | diisopropylethyl amine | 0.014 mole, 2.48 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | (2S,3S,4R)-3-[4-(biphenyl-4-ylmethoxy)-2-(3-pyridyl)tetrahydrofuran-3-yl]propanal | C1(=CC=C(C=C1)CO[C@@H]1[C@H]([C@H](OC1)C=1C=NC=CC1)CCC=O)C1=CC=CC=C1 | C25H25NO3
